US06203724B1
28.85 ml of a 15% solution of butyllithium in hexane are added dropwise to a solution, cooled to −30° C., of 13.0 g of 4-ethynyl-4′-propylbicyclohexyl-4-ol in 24 ml of THF. A solution of 4.67 ml of iodomethane in 36 ml of dimethyl sulfoxide is subsequently added dropwise to the reaction mixture at −5° C. The mixture is stirred at RT overnight and subjected to conventional work-up, giving 4-ethynyl-4-methoxy-4′-propylbicyclohexyl.

reactant | butyllithium | C(CCC)[Li]
reactant | 4-ethynyl-4′-propylbicyclohexyl-4-ol | 13.0 g | C(#C)C1(CCC(CC1)C1CCC(CC1)CCC)O | C17H28O
reactant | iodomethane | 4.67 ml | IC | CH3I
solvent | hexane | CCCCCC | C6H14
solvent | THF | 24 ml | C1CCOC1 | C4H8O
solvent | dimethyl sulfoxide | 36 ml | CS(=O)C | C2H6OS
product | 4-ethynyl-4-methoxy-4′-propylbicyclohexyl | C(#C)C1(CCC(CC1)C1CCC(CC1)CCC)OC | C18H30O
